US08895596B2
Step D: 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclo-pentanecarboxylic acid.
Ethyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate (0.039 g, 0.084 mmol) was dissolved in 1 mL of THF and treated with KOTMS (0.032 g, 0.253 mmol). The reaction mixture was stirred overnight at ambient temperature, and then diluted with EtOAc and washed with 2 N HCl. The layers were separated and the aqueous layer was further extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to afford the title compound as a white solid. LCMS: calculated for C25H20F2N2O3 434.43, observed m/e 434.9 (M+H)+ (Rt 2.24/4 min). 1H NMR (500 MHz, d6-DMSO): δ7.77 (d, 2H), 7.73 (d, 2H), 7.56-7.46 (m, 4H), 7.39 (m, 111), 7.14 (d, 1H), 5.50 (m, 1H), 2.95 (m, 1H), 2.20-1.80 (m, 6H).

reactant | Ethyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate | 0.084 mmol, 0.039 g | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CC(CC2)C(=O)OCC)C=C1F)F)C1=CC=CC=C1 | C27H24F2N2O3
reactant | KOTMS | 0.253 mmol, 0.032 g | O([K])[Si](C)(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclo-pentanecarboxylic acid | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CC(CC2)C(=O)O)C=C1F)F)C1=CC=CC=C1 | C25H20F2N2O3
